US05420123
To indole-3-acetic acid (186 mg, 1.06 mmol) in 3.5 mL of methylene chloride and 0.009 mL of dimethylformamide, oxalyl chloride (2 M in methylene chloride, 0.64 mL, 1.27 mmol) was added. The mixture was stirred at room temperature for 1 hour and concentrated to give 1H-indole-3-acetyl chloride.

reactant | indole-3-acetic acid | 1.06 mmol, 186 mg | N1C=C(C2=CC=CC=C12)CC(=O)O | C10H9NO2
reactant | oxalyl chloride | 1.27 mmol, 2 M, 0.64 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 3.5 mL | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 0.009 mL | CN(C=O)C | C3H7NO
product | 1H-indole-3-acetyl chloride | C1=CC=C2C(=C1)C(=CN2)CC(=O)Cl | C10H8ClNO
